US08445495B2
To a solution of tert-butyl 4-(2-fluoro-3-(3-(2-methylpyridin-4-yl)ureido)benzyl)piperazine-1-carboxylate (600 mg, 1.35 mmol, 1.0 equiv) in MeOH (3 mL) was added HCl (4N in dioxane, 3 mL, 12 mmol, 8.9 equiv). After 1 h, the solvent was removed in vacuo. To this residue was added DCM (10 mL) and Et3N (875 μL, 6.28 mmol, 4.65 equiv), and the resulting solution was divided into two equal parts. To the resulting solution was added methyl chloroformate (75 μL, 0.95 mmol, 1.4 equiv) dropwise by syringe. After 30 min, the reaction was quenched by the addition of aq. satd. NaHCO3. The reaction was diluted with EtOAc, and washed twice with aq. satd. NaHCO3 and once with brine. The solution was then dried over sodium sulfate, filtered and concentrated in vacuo. Purification by reverse phase preparative HPLC provided methyl 4-(2-fluoro-3-(3-(2-methylpyridin-4-yl)ureido)benzyl)piperazine-1-carboxylate (201.3 mg, 77%). LCMS m/z (APCI)=402.2 (M+H). LCMS m/z (APCI)=402.2 (M+H).

reactant | tert-butyl 4-(2-fluoro-3-(3-(2-methylpyridin-4-yl)ureido)benzyl)piperazine-1-carboxylate | 1.35 mmol, 600 mg, 1.0 equiv | FC1=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C1NC(=O)NC1=CC(=NC=C1)C | C23H30FN5O3
reactant | HCl | 12 mmol, 4N, 3 mL, 8.9 equiv | Cl | ClH
reactant | Et3N | 6.28 mmol, 875 μL, 4.65 equiv | CCN(CC)CC | C6H15N
reactant | methyl chloroformate | 0.95 mmol, 75 μL, 1.4 equiv | ClC(=O)OC | C2H3ClO2
solvent | MeOH | 3 mL | CO | CH4O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-(2-fluoro-3-(3-(2-methylpyridin-4-yl)ureido)benzyl)piperazine-1-carboxylate | 201.3 mg, 77% | FC1=C(CN2CCN(CC2)C(=O)OC)C=CC=C1NC(=O)NC1=CC(=NC=C1)C | C20H24FN5O3
